US07067540B2
To a solution of 3-cyclohexylaminobut-2-enoic acid methyl ester (1.12 g, 5.72 mmol) in bromobenzene (20 mL) was added 2-methylmalonic acid bis-(2,4,6-trichloro-phenyl)ester (2.71 g, 5.72 mmol)and the reaction mixture was heated at 170° C. for 3 h. The reaction mixture was cooled to room temperature, and concentrated under reduced pressure. Purification by flash column chromatography (silica, eluent methylene chloride to 94:6 methylene chloride/MeOH) and recrystallization from hot MeOH provided methyl 1-cyclohexyl-4-hydroxy-2,5-dimethyl-6-oxo-1,6-dihydropyridine-3-carboxylate as pale yellow crystals (0.34 g, 21%): 1H NMR (500 MHz, DMSO-d6) δ 9.82 (s, 1H), 4.00-3.90 (m, 1H), 3.76 (s, 3H), 2.75-2.60 (m, 2H), 2.31 (s, 3H), 1.81 (s, 3H), 1.80-1.70 (m, 2H), 1.65-1.50 (m, 3H), 1.40-1.20 (m, 2H), 1.15-1.05 (m, 1H).

reactant | 3-cyclohexylaminobut-2-enoic acid methyl ester | 5.72 mmol, 1.12 g | COC(C=C(C)NC1CCCCC1)=O | C11H19NO2
reactant | 2-methylmalonic acid bis-(2,4,6-trichloro-phenyl)ester | 5.72 mmol, 2.71 g | ClC1=C(C(=CC(=C1)Cl)Cl)OC(C(C(=O)OC1=C(C=C(C=C1Cl)Cl)Cl)C)=O | C16H8Cl6O4
solvent | bromobenzene | 20 mL | BrC1=CC=CC=C1 | C6H5Br
product | methyl 1-cyclohexyl-4-hydroxy-2,5-dimethyl-6-oxo-1,6-dihydropyridine-3-carboxylate | 0.34 g, 21% | C1(CCCCC1)N1C(=C(C(=C(C1=O)C)O)C(=O)OC)C | C15H21NO4
